US05157053
4-azatricyclo[4.4.0.03,8 ]decane;
4-azatricyclo [4.3.1.13,8 ]undecane; 11-azabicyclo[4.4.1]undecane;

reactant | 4-azatricyclo [4.3.1.13,8 ]undecane | C12CC3NCC(CC(C1)C3)C2 | C10H17N
reactant | 11-azabicyclo[4.4.1]undecane | C12CCCCC(CCCC1)N2 | C10H19N
product | 4-azatricyclo[4.4.0.03,8 ]decane | C12CC3NCC2CC3CC1 | C9H15N
